US09290451B2
b) (S)-2-(6-(Cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-3,3-dimethylbutanoic acid
In analogy to the procedure described in Example 5 c), (S)-methyl 2-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-3,3-dimethylbutanoate was saponified with lithium hydroxide to obtain the title compound. MS (EI): m/e=396.1 [M−H]−.

reactant | (S)-methyl 2-(6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-3,3-dimethylbutanoate | C1(CC1)COC1=C(C=CC(=N1)C(=O)N[C@H](C(=O)OC)C(C)(C)C)N1CC(C1)(F)F | C20H27F2N3O4
reactant | lithium hydroxide | [OH-].[Li+]
product | (S)-2-(6-(Cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)picolinamido)-3,3-dimethylbutanoic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)N[C@H](C(=O)O)C(C)(C)C)N1CC(C1)(F)F | C19H25F2N3O4
